US06756403B2
A hydrogenator was charged by adding 6 g of ethyl 4-oxochromene-2-carboxylate, 3.5 mL of acetic anhydride, 1 g of 10% palladium on carbon, 4.0 g of dried 3A molecular sieves (powered), and 30 mL of glacial acetic acid. After purging several times with nitrogen, the hydrogenator was purged several times with hydrogen. While maintaining stirring the reaction mixture was pressurized to about 30 psi of hydrogen, heated to about 60° C. and maintained under those conditions for about 10-12 hours. HPLC monitoring of the reaction was used to determine when the reaction was essentially complete, e.g., when the area ratio by HPLC between the chromen-4-one and the chroman-4-one was not more than 3%. The mixture was then cooled to room temperature and filtered through a celite bed. The catalyst and sieves were washed with 10 mL aliquots of glacial acetic acid and the washes were combined with the filtrate. The combined mixture was concentrated under mild distillation conditions to an oil, which was dissolved with ethyl acetate and extracted with saturated NaHCO3. After the extraction, the aqueous layer was washed with ethyl acetate and the mixture neutralized to a low pH with concentrated HCl. The mixtures was extracted several times with ethyl acetate, the extracts were combined, concentrated to a solid, washed with acetonitrile and then filtered. Upon drying, about 3.5-4.0 grams of ethyl 4-oxo-chromane-2-carboxylate were obtained as a solid.

reactant | ethyl 4-oxochromene-2-carboxylate | 6 g | O=C1C=C(OC2=CC=CC=C12)C(=O)OCC | C12H10O4
reactant | acetic anhydride | 3.5 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | palladium on carbon | 1 g | [Pd] | Pd
product | ethyl 4-oxo-chromane-2-carboxylate | about 3.5-4.0 grams | O=C1CC(OC2=CC=CC=C12)C(=O)OCC | C12H12O4
